US04547501
(d) Preparation of 4-chloro-8-fluoro-[1,2,4]triazolo[4,3-a]quinoxaline
A mixture consisting of 10 g. (0.047 mole) of 2-chloro-6-fluoro-3-hydrazinoquinoxaline and 80 ml. (0.47 mole) of triethyl orthoformate was heated under a nitrogen atmosphere with mechanical stirring in a preheated oil bath at 100° C. overnight (~16 hours). The resulting mixture was cooled to room temperature, and the precipitate which formed was subsequently recovered by means of suction filtration, washed with three-50 ml. portions of ethanol and air-dried to constant weight to ultimately afford 9.42 g. (91%) of pure 4-chloro-8-fluoro-[1,2,4]triazolo[4,3-a]quinoxaline, m.p. 310°-312° C. (decomp.). Mass Spectrum: m/e, 224, 223, 222 (P+).

reactant | 2-chloro-6-fluoro-3-hydrazinoquinoxaline | 0.047 mole | ClC1=NC2=CC=C(C=C2N=C1NN)F | C8H6ClFN4
reactant | triethyl orthoformate | 0.47 mole | C(OCC)(OCC)OCC | C7H16O3
product | 4-chloro-8-fluoro-[1,2,4]triazolo[4,3-a]quinoxaline | ClC=1C=2N(C3=CC(=CC=C3N1)F)C=NN2 | C9H4ClFN4
